US08895566B2
A solution of tert-butyl 3-((tert-butoxycarbonylamino)(4-chlorophenyl)methyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazine-7(8H)-carboxylate (0.652 g, 1.41 mmol) in MeOH (7.03 mL, 1.41 mmol) was saturated with HCl (g). The reaction mixture was stirred at room temperature for 30 minutes and then concentrated in vacuo to afford (4-chlorophenyl)(5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazin-3-yl)methanamine bishydrochloride as a foam (0.47 g, 99%). LCMS (APCI+) M+H+: 264 (50%), 266 (10%), 267 (3%); rt=1.76 minutes. 1H NMR (400 MHz, d6-DMSO) δ □10.62 (s, 1H), 10.18 (s, 1H), 9.43 (s, 3H), 7.57 (d, J=8.6 Hz, 2H), 7.53 (d, J=8.6 Hz, 2H), 6.13 (m, 1H), 4.51 (m, 2H), 4.44 (m, 1H), 3.56 (m, 3H).

reactant | tert-butyl 3-((tert-butoxycarbonylamino)(4-chlorophenyl)methyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazine-7(8H)-carboxylate | 1.41 mmol, 0.652 g | C(C)(C)(C)OC(=O)NC(C1=NN=C2N1CCN(C2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)Cl | C22H30ClN5O4
reactant | MeOH | 1.41 mmol, 7.03 mL | CO | CH4O
reactant | HCl | Cl | ClH
product | (4-chlorophenyl)(5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazin-3-yl)methanamine bishydrochloride | 0.47 g, 99% | Cl.Cl.ClC1=CC=C(C=C1)C(N)C1=NN=C2N1CCNC2 | InChI=1S/C12H14ClN5.2ClH/c13-9-3-1-8(2-4-9)11(14)12-17-16-10-7-15-5-6-18(10)12;;/h1-4,11,15H,5-7,14H2;2*1H
